US07087604B2
2-Isopropoxycarbonylamino-5-trifluoromethyl-benzoic acid
2-(tert-Butoxycarbonyl)amino-5-trifluoromethylbenzoic acid (6.0 g) was dissolved in 4M HCl (4 mL) in dioxane. After 3 h, the solution was concentrated to a white solid. A portion of this material (900 mg) was dissolved in THF (10 mL), water (2 mL), and Et3N (1.8 mL) prior to the addition of 1M i-propyl chloroformate (4.5 mL) in toluene. The reaction was stirred for 4 h before EtOAc was added. The EtOAc layer was washed with 1N HCl and brine before it was dried, filtered, and concentrated to a crude material. This material was crystallized with CH2Cl2 to give the title compound (800 mg). MS found: (2M−1)−=581.2.

reactant | 2-(tert-Butoxycarbonyl)amino-5-trifluoromethylbenzoic acid | 6.0 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C13H14F3NO4
solvent | HCl | 4M, 4 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Isopropoxycarbonylamino-5-trifluoromethyl-benzoic acid | 800 mg | C(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C12H12F3NO4
